US04757070
5-Bromo-methyl-4-methoxymethyl-beta-carboline-3-carboxylic acid ethyl ester (0.35 g) is left with imidazole (0.13 g) in dimethyl sulfoxide (4 ml) for three days at room temperature. The precipitate resulting after addition of water (40 ml) is recrystallized from ethanol and chromatographed on silica gel with a mixture of 19 parts of dichloromethane and one part of methanol. Thus 0.2 g of 5-(1-imidazolylmethyl)-4-methoxymethyl-beta-carboline-3-carboxylic acid ethyl ester with a melting point of 220°-222° C. is obtained.

reactant | 5-Bromo-methyl-4-methoxymethyl-beta-carboline-3-carboxylic acid ethyl ester | 0.35 g | C(C)OC(=O)C=1N=C(C=2NC3=CC=CC(=C3C2C1COC)Br)C | C17H17BrN2O3
reactant | imidazole | 0.13 g | N1C=NC=C1 | C3H4N2
reactant | water | 40 ml | O | H2O
reactant | dimethyl sulfoxide | 4 ml | CS(=O)C | C2H6OS
product | 5-(1-imidazolylmethyl)-4-methoxymethyl-beta-carboline-3-carboxylic acid ethyl ester | 0.2 g | C(C)OC(=O)C=1N=CC=2NC3=CC=CC(=C3C2C1COC)CC=1NC=CN1 | C20H20N4O3
